US07105567B2
By the reaction and treatment in the same manner as in Preparation Example 1 using benzaldehyde (3.4 g) and 4-butylaniline (5 g) as starting materials, benzyl(4-butylphenyl)amine (2.7 g) was obtained.

reactant | benzaldehyde | 3.4 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | 4-butylaniline | 5 g | C(CCC)C1=CC=C(N)C=C1 | C10H15N
product | benzyl(4-butylphenyl)amine | 2.7 g | C(C1=CC=CC=C1)NC1=CC=C(C=C1)CCCC | C17H21N
